US04584394
Preparation of vinyltribenzoyloxysilane
A six-liter three-necked flask is placed in a mushroom heating hood, and equipped with a stirrer, a reflux condenser and a dropping funnel whose nozzle bore amounts to 1 cm. 808 g (5 moles) of vinyltrichlorosilane and 1000 ml of hexane are introduced into the flask. The outlet from the reflux condenser is shielded with nitrogen. After the liquid has been heated until an intensive refluxing is taking place at the condenser, 1855 g (15.2 mol) of benzoic acid is added in 30-gram portions. The addition is completed in about 20 hours. The reaction is allowed to run, with refluxing and vigorous stirring, until the analytically determined contents of hydrolyzable chlorine amount to less than 100 parts per million.

reactant | vinyltrichlorosilane | 5 moles, 808 g | C(=C)[Si](Cl)(Cl)Cl | C2H3Cl3Si
reactant | benzoic acid | 15.2 mol, 1855 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | chlorine | ClCl | Cl2
solvent | hexane | 1000 ml | CCCCCC | C6H14
product | vinyltribenzoyloxysilane | C(=C)[Si](OC(C1=CC=CC=C1)=O)(OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O | C23H18O6Si
